US09382238B2
A solution of methyl 2-(3-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)acetate (0.1 g, 0.340 mmol) in ammonia (MeOH, 10 mL, 160 mmol) was stirred at 20° C. for 16 h. After LCMS analysis showed the starting material had disappeared, the solvent was removed in vacuo to yield 2-(3-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)acetamide (100 mg, 0.286 mmol, 84.0% yield): 1H NMR (400 MHz, DMSO-d6) δ 7.56 (t, J=7.2 Hz, 1H), 7.14-6.98 (m, 2H), 3.59 (s, 2H), 1.26 (s, 12H); ES-LCMS m/z 280.1 (M+H).

reactant | methyl 2-(3-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)acetate | 0.340 mmol, 0.1 g | FC=1C=C(C=CC1B1OC(C(O1)(C)C)(C)C)CC(=O)OC | C15H20BFO4
reactant | ammonia | 160 mmol, 10 mL | N | H3N
product | 2-(3-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)acetamide | 0.286 mmol, 100 mg, 84.0% yield | FC=1C=C(C=CC1B1OC(C(O1)(C)C)(C)C)CC(=O)N | C14H19BFNO3
